US08536179B2
To a flask under N2 atmosphere was added 10% palladium on carbon (0.028 g, 0.026 mmol) and ethanol (1 mL) (to wet catalyst). The flask was then charged with 6-bromo-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-1-(1-methylethyl)-1H-indole-4-carboxamide (0.11 g, 0.264 mmol), ethanol (4 mL) and tetrahydrofuran (1 mL). The suspension was stirred under N2, then evacuated and refilled with H2 (balloon) and stirred overnight. The reaction was then placed back under N2 and diluted with 10% methanol/dichloromethane. Celite was added and the mixture was stirred for 15 min, filtered through a pad of Celite, washed with 10% methanol/dichloromethane, and concentrated. The residue was dissolved in dimethylsulfoxide and acetonitrile (with 0.1% trifluoroacetic acid and purified by Gilson prep HPLC (Sunfire 30×75 mm; Gradient B: 15-75%; A: water+0.1% TFA; B: acetonitrile+0.1% TFA). The resulting residue was dissolved in 10% methanol/dichloromethane and treated with Silicycle carbonate resin (1.5 g). The mixture was stirred for 30 min, filtered through Celite, washed with 10% methanol/dichloromethane, and concentrated. The residue was dissolved in dichloromethane and treated with methyl-t-butylether. The solvents were removed by via N2 stream and the solids dried in a vacuum oven at 45° C. for 18 h to give N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-1-(1-methylethyl)-1H-indole-4-carboxamide (56 mg, 0.159 mmol, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41-1.48 (m, 6H) 2.09-2.15 (m, 3H) 2.24 (s, 3H) 4.35 (d, J=5.31 Hz, 2H) 4.79 (quin, J=6.63 Hz, 1H) 5.88 (s, 1H) 6.84 (d, J=3.03 Hz, 1H) 7.11-7.18 (m, 1H) 7.39 (d, J=6.57 Hz, 1H) 7.58 (d, J=3.28 Hz, 1H) 7.65 (d, J=8.34 Hz, 1H) 8.08 (t, J=5.31 Hz, 1H) 11.54 (br. s., 1H). MS (ES) [M+H]+ 338.6.

reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | 6-bromo-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-1-(1-methylethyl)-1H-indole-4-carboxamide | 0.264 mmol, 0.11 g | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C20H22BrN3O2
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.026 mmol, 0.028 g | [Pd] | Pd
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-1-(1-methylethyl)-1H-indole-4-carboxamide | 0.159 mmol, 56 mg, 60% yield | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=2C=CN(C2C=CC1)C(C)C | C20H23N3O2
